US07956066B2
A. 6-[3-(1-Methyl-piperidin-4-yl)-propoxy]-nicotinonitrile.
To a stirred solution of 3-(1-methyl-piperidin-4-yl)-propan-1-ol (5.0 g, 31.7 mmol) in DMF (200 mL), was added NaH (60%; 1.73 g, 43.3 mmol) portion wise. Once the initial effervescence had subsided, the mixture was heated at 60° C. for 1 h, and then was cooled to rt. A solution of 6-chloronicotinonitrile (4.0 g, 28.9 mmol) in DMF (20 mL) was then added and the mixture was stirred for 16 h before quenching with saturated (satd.) aq. NaHCO3 (50 mL) and brine (50 mL). A precipitate was formed and was collected by vacuum filtration to afford 3.67 g of the product. The filtrate was concentrated to half the volume and a second crop of precipitate was recovered. The precipitates were combined to give 5.64 g (76%) of an orange solid, which was used without further purification. MS (ESI): mass calcd for C15H21N3O, 259.17; m/z found, 260.4 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.46 (dd, J=2.3, 0.8, 1H), 7.77 (dd, J=8.6, 2.3, 1H), 6.80 (dd, J=8.6, 0.8, 1H), 4.34 (t, J=6.6, 2H), 2.96-2.82 (m, 2H), 2.25 (s, 3H), 1.92-1.68 (m, 7H), 1.37-1.34 (m, 2H), 0.89-0.81 (m, 2H).

reactant | 3-(1-methyl-piperidin-4-yl)-propan-1-ol | 31.7 mmol, 5.0 g | CN1CCC(CC1)CCCO | C9H19NO
reactant | NaH | 43.3 mmol, 1.73 g | [H-].[Na+]
reactant | 6-chloronicotinonitrile | 28.9 mmol, 4.0 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-[3-(1-Methyl-piperidin-4-yl)-propoxy]-nicotinonitrile | 3.67 g | CN1CCC(CC1)CCCOC1=NC=C(C#N)C=C1 | C15H21N3O
